US04327101
2.95 g of ethyl 1-ethyl-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate are suspended in 50 ml of ethanol, and 50 ml of an aqueous 2% sodium hydroxide solution are added thereto. The suspension is stirred at room temperature for 2 hours. Then, the reaction mixture is evaporated to remove solvent, and the residue is adjusted to about pH 1 with 10% hydrochloric acid. The crystalline precipitates are collected by filtration, washed with water and then dried. 2.41 g of 1-ethyl-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid are thereby obtained as crystalline powder. Yield: 90%

reactant | ethyl 1-ethyl-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.95 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)OCC | C15H15F2NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-ethyl-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.41 g, Yield: 90% | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)O | C13H11F2NO3
